US08202858B2
4-((E)-2-tert-Butoxycarbonyl-vinyl)-3-methyl-benzoic Acid Methyl Ester
Tetrakis(triphenylphosphine)palladium (0) (5.0 g, 4.33 mmol) was added to a stirred solution of methyl 4-bromo-3-methylbenzoate (9.93 g, 43.3 mmol), tert-butyl acrylate (50 ml, 341.3 mmol) and sodium acetate (35.8 g, 436.4 mmol) in DMA (350 ml). The mixture was heated at 140° C. for 5 h, filtered through Celite® filter agent and the filtrate was concentrated in vacuo. The residue was redissolved in EtOAc, washed with 0.3M KHSO4 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 15% EtOAc:85% hexane to 20% EtOAc:80% hexane) to yield the title compound (4.81 g, 40%).

reactant | methyl 4-bromo-3-methylbenzoate | 43.3 mmol, 9.93 g | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | tert-butyl acrylate | 341.3 mmol, 50 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | sodium acetate | 436.4 mmol, 35.8 g | C(C)(=O)[O-].[Na+]
solvent | DMA | 350 ml | CC(=O)N(C)C | C4H9NO
catalyst | Tetrakis(triphenylphosphine)palladium | 4.33 mmol, 5.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-((E)-2-tert-Butoxycarbonyl-vinyl)-3-methyl-benzoic Acid Methyl Ester | 4.81 g, 40% | COC(C1=CC(=C(C=C1)\C=C\C(=O)OC(C)(C)C)C)=O | C16H20O4
